US08865732B2
2-Bromo-1-(pyrindin-4-yl)ethanone hydrobromide (6.4 g, 23 mmol) was added portionwise to a solution of benzamidine (11.2 g, 93 mmol) in dry DMF (50 mL) at 0° C., maintaining an internal temperature of <5° C. The stirred reaction was allowed to warm to rt over 2 h and then heated to 40° C. for 16 h. The crude reaction was poured into saturated aqueous NaHCO3 solution (600 mL), and partition and extracted with EtOAc (3×300 mL). The combined organic layers were dried (Na2SO4) and evaporated. The resulting crude residue was purified by flash chromatography (SiO2, 100:0-90:10 DCM-MeOH) to give 3.68 g (72%) of 4-(2-phenyl-1H-imidazol-4-yl)pyridine: 1H NMR (CDCl3) δ 9.73 (broad s, 1H), 8.61 (d, J=6.0, 1.2 Hz, 2H), 7.91 (d, J=8.0, 1.6 Hz, 2H), 7.77 (d, J=6.0, 1.2 Hz, 2H), 7.57 (s, 1H), 7.48 (m, 3H).

reactant | benzamidine | 93 mmol, 11.2 g | C(C1=CC=CC=C1)(=N)N | C7H8N2
reactant | NaHCO3 | 600 mL | C(=O)(O)[O-].[Na+]
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 4-(2-phenyl-1H-imidazol-4-yl)pyridine | 3.68 g, 72% | C1(=CC=CC=C1)C=1NC=C(N1)C1=CC=NC=C1 | C14H11N3
